US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(6-(pyrrolidin-3-ylamino)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, tert-butyl 3-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-ylamino)pyrrolidine-1-carboxylate (100 mg, 0.18 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (73 mg, 0.27 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (42 mg, 45% over 2 steps) as a yellow solid: NMR (500 MHz, MeOD+TFA-d) δ 9.40 (br s, 1H), 8.22 (dd, J=8.8, 2.0 Hz, 1H), 8.17-8.06 (m, 2H), 8.00 (d, J=8.8 Hz, 1H), 7.55 (dd, J=8.9, 2.7 Hz, 1H), 7.19-7.13 (m, 2H), 6.83-6.76 (m, 1H), 4.65-4.56 (m, 1H), 3.66-3.49 (m, 2H), 3.45-3.30 (m, 2H), 2.87 (br s, 1H), 2.48-2.37 (m, 1H), 2.19-2.08 (m, 1H), 1.28-1.16 (m, 4H). ESI MS m/z 518 [C28H25ClFN5O2+H]+; HPLC>99.0% (AUC), tR=10.43 min.

reactant | tert-butyl 3-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-ylamino)pyrrolidine-1-carboxylate | 0.18 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)NC1CN(CC1)C(=O)OC(C)(C)C | C27H30BrN5O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.27 mmol, 73 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(6-(pyrrolidin-3-ylamino)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone | 42 mg, 45% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)NC1CNCC1 | C28H25ClFN5O2
